US07960584B2
Step 1: 3-(4-t-butylphenyl)-but-2-enoic acid
The solution of ethyldiethylphosphonoacetate (1.2 eq, 0.25 g) in 4 ml of DMF was put into the flask and then cooled to 0° C. To the solution was added 60% sodium hydride (1.4 eq, 1.27 mmol, 51 mg) and then added 4-t-butylphenylacetophenone (0.16 g, 0.91 mmol) in 3 ml DMF slowly. The mixture solution was stirred for 4 hours. After conforming the completion of the reaction with TLC, the reaction mixture was extracted with ethylacetate, and washed with water. The combined organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The obtained liquid was dissolved in MeOH/THF solution and added 1N NaOH solution, and then refluxed overnight. After conforming the completion of the reaction with TLC, the reaction mixture was extracted with ethylacetate, and acidified with 1N HCl solution. And the combined organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The obtained solid was purified with column chromatography to yield the title compound (134 mg, 68.1%)

reactant | ethyldiethylphosphonoacetate | 0.25 g, 1.2 eq | C(C)OC(CP(=O)(OCC)OCC)=O | C8H17O5P
reactant | sodium hydride | 1.27 mmol, 51 mg, 1.4 eq | [H-].[Na+]
reactant | 4-t-butylphenylacetophenone | 0.91 mmol, 0.16 g | C(C)(C)(C)C1=CC=C(C=C1)CC(=O)C1=CC=CC=C1 | C18H20O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-(4-t-butylphenyl)-but-2-enoic acid | 134 mg, 68.1% | C(C)(C)(C)C1=CC=C(C=C1)C(=CC(=O)O)C | C14H18O2
